US08669381B2
Step 1: Synthesis of ethyl 2-(4-acetylphenyl)acetate (A-2)
To a solution of ethyl 2-phenylacetate (A-1) (50.9 g, 305 mmol) in CS2 (220 mL) was added AlCl3 (93.6 g, 702 mmol) at 0˜10° C. over 10 min. After addition, acetyl chloride (30.5 mL, 427 mmol) was added at 0˜10° C. over 10 min. After addition, the reaction mixture was slowly heated to reflux overnight, then poured into ice-cooled 5N HCl solution (600 mL), extracted with EA (200 mL×3). The combined organic phase was washed with water (200 mL), sat. NaHCO3 (200 mL) and brine (200 mL), dried over Na2SO4, concentrated to afford a brown oil. Recrystallized with PE/acetone (150 mL/20 mL) in refrigerator to afford A-2 as a yellow crystal solid (13.8 g, 19%).

reactant | ethyl 2-phenylacetate | 305 mmol, 50.9 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | AlCl3 | 702 mmol, 93.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 427 mmol, 30.5 mL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 5N, 600 mL | Cl | ClH
solvent | CS2 | 220 mL | C(=S)=S | CS2
product | ethyl 2-(4-acetylphenyl)acetate | 13.8 g, 19% | C(C)(=O)C1=CC=C(C=C1)CC(=O)OCC | C12H14O3
